US08685980B2
By repeating procedures described in Example 88, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide hydrochloride (150 mg, 0.318 mmol), N—BOC-glycine (56 mg, 0.318 mmol) gave a crude product which is purified by SiO2 chromatography, eluting with 0-7% methanol/dichloromethane to give (2-{4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazin-1-yl}-2-oxo-ethyl)-carbamic acid tert-butyl ester which is used directly in the next step.

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide hydrochloride | 0.318 mmol, 150 mg | Cl.CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C
reactant | N—BOC-glycine | 0.318 mmol, 56 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
product | (2-{4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazin-1-yl}-2-oxo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCC2)=O | C30H41N9O4
